US09447035B2
To a suspension of (S)-2-[[1-(2-azidoethyl)cyclopentanecarbonyl]amino]-3-[4-(2,6-dichlorobenzoylamino)phenyl]propionic acid methyl ester (14.77 g, 27.7 mmol) in THF (200 mL) and ethanol (200 mL) was added aqueous 1.0N sodium hydroxide (150 mL) at room temperature. The mixture was stirred for 15 h at room temperature at which time TLC analysis of the mixture indicated the absence of starting material. Then, it was diluted with water (20 mL) and the THF and ethanol were removed by rotary evaporation and diluted with 100 mL of water and extracted with ether (200 mL) to remove any neutral impurities. The aqueous layer was neutralized with 1N HCl and the resulting white solids were collected by filtration and washed with water and hexanes. After air-drying, 13.37 g (93% yield) of (S)-2-[[1-(2-azidoethyl)cyclopentanecarbonyl]amino]-3-[4-(2,6-dichlorobenzoylamino)phenyl]propionic acid was obtained as a white solid. ES(+)-HRMS m/e calcd. for C24H25Cl2N5O4 (M+Na)+ 540.1176, obsd. 540.1177.

reactant | (S)-2-[[1-(2-azidoethyl)cyclopentanecarbonyl]amino]-3-[4-(2,6-dichlorobenzoylamino)phenyl]propionic acid methyl ester | 27.7 mmol, 14.77 g | COC([C@H](CC1=CC=C(C=C1)NC(C1=C(C=CC=C1Cl)Cl)=O)NC(=O)C1(CCCC1)CCN=[N+]=[N-])=O | C25H27Cl2N5O4
reactant | sodium hydroxide | 1.0N, 150 mL | [OH-].[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
product | (S)-2-[[1-(2-azidoethyl)cyclopentanecarbonyl]amino]-3-[4-(2,6-dichlorobenzoylamino)phenyl]propionic acid | 13.37 g, 93% yield | N(=[N+]=[N-])CCC1(CCCC1)C(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)NC(C1=C(C=CC=C1Cl)Cl)=O | C24H25Cl2N5O4
